2103-10-01 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2103-9-30**] 02:54 PM
 EKG - At [**2103-9-30**] 07:15 PM
 EKG - At [**2103-9-30**] 09:30 PM
 BLOOD CULTURED - At [**2103-9-30**] 09:59 PM
 FEVER - 101.4
F - [**2103-9-30**] 10:00 PM
   Overnight patient was intermittently hypotensive with MAPs in 50s,
   responsive to fluid bolus. Tachycardic upto 145.  EKG showed Sinus
   tachycardia, with borderline low voltage.  RR 40-50s.  ABG showed resp
   alkalosis [7.48/29/52/22].  Continued on 35% high flow neb with face
   tent.
   Given stress dose steroids, bps with Maps > 60, tachycardic to 110s.
   RR 20s-30s.
   Mental status seemed to get progressively worse.  Clear after bronch,
   complained of some confusion with increased respiratory rate, and this
   AM even more confused. Though completely arousable and conversant.
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2103-9-30**] 08:09 PM
   Voriconazole - [**2103-9-30**] 08:09 PM
   Acyclovir - [**2103-9-30**] 08:10 PM
   Cefipime - [**2103-9-30**] 11:56 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2103-9-30**] 03:20 PM
   Fentanyl - [**2103-9-30**] 03:35 PM
   Pantoprazole (Protonix) - [**2103-9-30**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-1**] 12:16 AM
   Lorazepam (Ativan) - [**2103-10-1**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-1**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 104 (95 - 144) bpm
   BP: 105/76(59) {76/35(48) - 131/81(96)} mmHg
   RR: 29 (26 - 49) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,446 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                     20 mL
   TF:
   IVF:
                                                                  2,326 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    300 mL
   Urine:
                                                                  1,000 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,446 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 100%
   ABG: 7.38/36/116/21/-2
   PaO2 / FiO2: 331
   Physical Examination
   Gen: Well appearing, NAD.
   Lungs: Decreased breath sounds at bases bilaterally. No rhonchi or
   crackles.
   CV: Sinus tachycardia.
   Abd: Soft, NT, ND. No masses. No rebound or guarding.
   Extremities: Warm, well perfused. No edema.
   Neuro: Alert and oriented x3. No focal neuro deficits.
   Labs / Radiology
   111 K/uL
   9.0 g/dL
   131 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   18 mg/dL
   108 mEq/L
   139 mEq/L
   26.3%
   7.3 K/uL
        [image002.jpg] AM ABG: 7.38/36/116
                             [**2103-9-30**]  09:45 PM
                             [**2103-9-30**]  09:51 PM
                             [**2103-9-30**]  11:18 PM
                             [**2103-10-1**]  04:55 AM
                             [**2103-10-1**]  06:11 AM
   WBC
   3.3
   Hct
   27.6
   Plt
   104
   Cr
   1.0
   1.0
   TCO2
   22
   23
   22
   Glucose
   106
   131
   Other labs: PT / PTT / INR:14.7/28.9/1.3, ALT / AST:[**5-10**], Alk Phos / T
   Bili:46/0.3, Amylase / Lipase:17/10, Differential-Neuts:82.5 %,
   Lymph:13.1 %, Mono:3.8 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted after he presented for
   scheduled chemotherapy with fevers to 101 in clinic and transferred to
   the ICU for persistent hypotension after bronchoscopy.
   # Fevers, hypotension: Most likely [**3-3**] sepsis physiology. Most obvious
   source of infection from multifocal pneumonia, though less likely due
   to portocath placement on [**9-30**].  Some element of adrenal insufficiency
   may be contributing given that patient has a history of intermittent
   chronic steroid use.  Responded well to stress dose steroids.
   -continue broad spectrum antibiotic and antifungal therapy with
   vancomycin, cefepime and voriconazole
   -follow up on blood and BAL culture data. BAL and bronchial washings
   gram stains show 1+ GPC in pairs.
   -continue stress dose steroids
   -will tolerate MAP under 60 if mentating and continues to have
   UOP>30cc/hr as baseline bp low
   # Respiratory distress: Tachypnea into 50s most likely [**3-3**] to hypoxia
   due to pneumonia.  Possible aspiration pneumonitis, possible
   inflammatory response of Hodgkins
   -continue broad spectrum antibiotic and antifungal therapy with
   vancomycin, cefepime and voriconazole
   -follow up on blood and BAL culture data. BAL and bronchial washings
   gram stains show 1+ GPC in pairs.
   -oxygen supplementation: would favor PEEP over oxygen given history of
   bleomycin toxicity
   # Tachycardia: EKG shows Sinus tachycardia.  Ruled out tamponade with
   negative CT. Etiologies include Sepsis, respiratory distress, anxiety,
   hypovolemia, adrenal insufficiency.
   -continue broad spectrum abx
   -continue IV fluids
goal UOP 30cc/hr
   -stress dose steroids
   # Altered mental status: Patient was at baseline s/p bronch, but got
   progressively more confused.  Always arousable to voice, just not
   coherent. [**Month (only) 60**] be [**3-3**] to infection, hypotension, or steroids. No focal
   neuro deficits.
   -hold sedating medications
   -continue to keep MAP>60, UO >30cc/hr
   -continue to monitor.
   .
   # Hodgkin's lymphoma. Recurrent, ongoing chemotherapy.
   - BMT service following.
   - Will likely receive scheduled gemzar, navelbine and decadron after
   treatment for pneumonia.
   - Continue acyclovir prophylaxis. S/p inhaled pentamadine on [**2103-8-29**].
   .
   # Prior bleomycin lung toxicity. Goal to limit oxygen supplementation
   to less than FiO2 33% to prevent further lung toxicity. Though
   oxygenation takes priority.
   .
   # Hypothyroidism. Continue home levothyroxine.
   .
   # Asthma. Continue salmeterol and albuterol inhalers.
   .
   # HBV core Ab positive. Continue lamivudine therapy.
   .
   # FEN: Will advance diet as tolerated
   .
   # Prophylaxis: PPI, heparin subq, bowel regimen.
   .
   # Access: Peripheral IV.
   .
   # Contact: HCP, [**Name (NI) 4923**] [**Name (NI) 4924**], father of patient, [**Telephone/Fax (1) 4925**].
   .
   # Code: Full.
   .
   # Dispo: ICU pending improvement in bp.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2103-9-30**] 02:54 PM
   22 Gauge - [**2103-9-30**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-10-01 08:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo male with Hodgkin's lymphoma s/p allo-BMT with recurrence.
   Admitted 4 days ago with fevers and multifocal PNA. Underwent
   bronchoscopy yesterday; remained in ICU due to hypotension
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2103-9-30**] 02:54 PM
 EKG - At [**2103-9-30**] 07:15 PM
 EKG - At [**2103-9-30**] 09:30 PM
 BLOOD CULTURED - At [**2103-9-30**] 09:59 PM
 FEVER - 101.4
F - [**2103-9-30**] 10:00 PM
   Overnight: Intermittently hypotensive but responsive to fluid. Became
   tachycardic, tachypneic (respiratory alkalosis by blood gas)
   Started on stress dose steroids with some improvement
   Became more confused as night progressed, though better this morning
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2103-9-30**] 08:09 PM
   Acyclovir - [**2103-9-30**] 08:10 PM
   Cefipime - [**2103-10-1**] 07:56 AM
   Vancomycin - [**2103-10-1**] 08:11 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2103-9-30**] 03:20 PM
   Fentanyl - [**2103-9-30**] 03:35 PM
   Pantoprazole (Protonix) - [**2103-9-30**] 08:10 PM
   Lorazepam (Ativan) - [**2103-10-1**] 02:30 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-1**] 08:00 AM
   Other medications:
   levothyroxine, serevent, MVI, pantroprazole, lamviduine, hep SQ tid,
   atrovent nebs, hydrocortisone 50mg IV q 6h, alb nebs, ativan 0.5-1 mg
   q6h prn, oxycodone, zyprexa, tylenol, Mg sulfate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-1**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 35.4
C (95.7
   HR: 102 (95 - 144) bpm
   BP: 84/57(63) {76/35(48) - 131/81(96)} mmHg
   RR: 30 (26 - 49) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,446 mL
                                                                    470 mL
   PO:
                                                                    120 mL
                                                                     70 mL
   TF:
   IVF:
                                                                  2,326 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    675 mL
   Urine:
                                                                  1,000 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,446 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.38/36/116/21/-2
   PaO2 / FiO2: 331
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, portacath
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left>right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.0 g/dL
   111 K/uL
   131 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   18 mg/dL
   108 mEq/L
   139 mEq/L
   26.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2103-9-30**]  09:45 PM
                             [**2103-9-30**]  09:51 PM
                             [**2103-9-30**]  11:18 PM
                             [**2103-10-1**]  04:55 AM
                             [**2103-10-1**]  06:11 AM
   WBC
   3.3
   7.3
   Hct
   27.6
   26.3
   Plt
   104
   111
   Cr
   1.0
   1.0
   TCO2
   22
   23
   22
   Glucose
   106
   131
   Other labs: PT / PTT / INR:14.7/28.9/1.3, ALT / AST:[**5-10**], Alk Phos / T
   Bili:46/0.3, Amylase / Lipase:17/10, Differential-Neuts:82.5 %,
   Lymph:13.1 %, Mono:3.8 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR pending
   Microbiology: BAL/bronch washing: 1+GPC's in prs, other cultures
   pending
   BdCultures pending
   Assessment and Plan
   45 year old male with Hodkin's lymphoma, hx allo-BMT admitted with
   multi focal PNA
   Recent hypotension, tachycardia likely to a combination of multifocal
   PNA, SIRS physiology in the context of portacath and bronchoscopy
   yesterday, and adrenal insufficiency from chronic steroid therapy
   Hypotension/shock: Appears improved but still receiving fluid
   resuscitation, will decrease IVF and see if BP tolerates
   Resp distress: On minimal suppplemental oxygen, will wean
   Multifocal PNA: Remains on vori, vanco, cefipime for multifocal pNA
   with bronch cultures pending
   Adrenal insufficiency: conitnue stress dose steroids
   Hodgkin's lymphoma: as per Onc team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2103-9-30**] 02:54 PM
   22 Gauge - [**2103-9-30**] 11:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Pt critically ill

2103-10-02 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2103-9-30**] 08:09 PM
   Acyclovir - [**2103-9-30**] 08:10 PM
   Vancomycin - [**2103-10-1**] 08:13 PM
   Cefipime - [**2103-10-1**] 11:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-1**] 08:14 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-2**] 12:00 AM
   Lorazepam (Ativan) - [**2103-10-2**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-2**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 95 (94 - 115) bpm
   BP: 99/66(72) {83/39(45) - 111/74(79)} mmHg
   RR: 39 (27 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,720 mL
                  PO:
                                                                    910 mL
                  TF:
   IVF:
                                                                    810 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    600 mL
   Urine:
                                                                  1,500 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   8.8 g/dL
   182 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   26 mg/dL
   110 mEq/L
   142 mEq/L
   24.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2103-9-30**]  09:45 PM
                             [**2103-9-30**]  09:51 PM
                             [**2103-9-30**]  11:18 PM
                             [**2103-10-1**]  04:55 AM
                             [**2103-10-1**]  06:11 AM
                             [**2103-10-2**]  04:12 AM
   WBC
   3.3
   7.3
   11.0
   Hct
   27.6
   26.3
   24.9
   Plt
   104
   111
   147
   Cr
   1.0
   1.0
   1.0
   TCO2
   22
   23
   22
   Glucose
   106
   131
   182
   Other labs: PT / PTT / INR:13.6/31.0/1.2, ALT / AST:[**5-10**], Alk Phos / T
   Bili:46/0.3, Amylase / Lipase:17/10, Differential-Neuts:80.2 %,
   Band:6.6 %, Lymph:4.7 %, Mono:8.5 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   45 year old male with Hodkin's lymphoma, hx allo-BMT admitted with
   multi focal PNA
   Recent hypotension, tachycardia likely to a combination of multifocal
   PNA, SIRS physiology in the context of portacath and bronchoscopy
   yesterday, and adrenal insufficiency from chronic steroid therapy
   Hypotension/shock: Appears improved but still receiving fluid
   resuscitation, will decrease IVF and see if BP tolerates
   Resp distress: On minimal suppplemental oxygen, will wean
   Multifocal PNA: Remains on vori, vanco, cefipime for multifocal pNA
   with bronch cultures pending
   Adrenal insufficiency: conitnue stress dose steroids
   Hodgkin's lymphoma: as per Onc team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2103-9-30**] 02:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-10-02 11:28:00 Physician Attending Progress Note
Chief Complaint: Dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 year old male with recurrent Hodgkin lymphoma who was transferred to
   ICU with hypotension post-bronch which has now improved. Being treated
   for HAP which likely caused fevers, hypoxia, hypotension
   Overnight, felt SOB but no objective worsening and is on nasal cannula
   at this time
   BAL: no growth to date
   24 Hour Events:
                           History obtained from Medical records
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2103-10-2**] 08:00 AM
   Vancomycin - [**2103-10-2**] 08:14 AM
   Acyclovir - [**2103-10-2**] 08:14 AM
   Voriconazole - [**2103-10-2**] 08:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-1**] 08:14 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-2**] 12:00 AM
   Lorazepam (Ativan) - [**2103-10-2**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-2**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 109 (94 - 115) bpm
   BP: 89/60(64) {83/39(45) - 111/74(79)} mmHg
   RR: 32 (27 - 43) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,720 mL
                                                                    300 mL
   PO:
                                                                    910 mL
             TF:
   IVF:
                                                                    810 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  1,200 mL
   Urine:
                                                                  1,500 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Awake, alert and in no acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  warm and dry
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   147 K/uL
   182 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   26 mg/dL
   110 mEq/L
   142 mEq/L
   24.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2103-9-30**]  09:45 PM
                             [**2103-9-30**]  09:51 PM
                             [**2103-9-30**]  11:18 PM
                             [**2103-10-1**]  04:55 AM
                             [**2103-10-1**]  06:11 AM
                             [**2103-10-2**]  04:12 AM
   WBC
   3.3
   7.3
   11.0
   Hct
   27.6
   26.3
   24.9
   Plt
   104
   111
   147
   Cr
   1.0
   1.0
   1.0
   TCO2
   22
   23
   22
   Glucose
   106
   131
   182
   Other labs: PT / PTT / INR:13.6/31.0/1.2, ALT / AST:[**5-10**], Alk Phos / T
   Bili:46/0.3, Amylase / Lipase:17/10, Differential-Neuts:90.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   1)  Respiratory Distress/pneumonia: Improved;  room air saturation in
   90s
          - Aggressive albuterol/atrovent
          - Continue antibiotics for pneumonia
   2) Hypotension: Improved with fluids, antibiotics, and stress-dose
   steroids
   3) Bone marrow transplant
   Disposition: Given improved respiratory status and hypotension (which
   was likely secondary to HAP), will discharge to the floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2103-9-30**] 02:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :35
   Total time spent: